US07291404B2
Synthesis of 1-Methyl-2-(9-anthryl)imidazo[4,5-f]-[1,10]phenanthroline
A mixture of the 2-(9-anthryl)imidazo[4,5-f]-[1,10]phenanthroline (10 grams) and sodium hydride (11.5 grams) in 300 milliliters of dimethylformamide was stirred at ambient temperature (about 23° C.) for 30 minutes. Into the resulting mixture was added 18.7 grams of iodomethane. The reaction was stirred overnight at room temperature when 100 milliliters of methanol was added. The precipitate was collected by filtration, washed with water, and dried in a vacuum oven to give the crude product which was further purified by sublimation. The product and its structure was confirmed by proton NMR analysis.

reactant | 2-(9-anthryl)imidazo[4,5-f]-[1,10]phenanthroline | 10 grams | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=1NC=2C(=C3C=CC=NC3=C3N=CC=CC23)N1 | C27H16N4
reactant | sodium hydride | 11.5 grams | [H-].[Na+]
reactant | iodomethane | 18.7 grams | IC | CH3I
reactant | methanol | 100 milliliters | CO | CH4O
solvent | dimethylformamide | 300 milliliters | CN(C=O)C | C3H7NO
product | 1-Methyl-2-(9-anthryl)imidazo[4,5-f]-[1,10]phenanthroline | CN1C(=NC2=C3C=CC=NC3=C3N=CC=CC3=C21)C=2C1=CC=CC=C1C=C1C=CC=CC21 | C28H18N4
